US04101323
(d) benzophenone oxime
are reacted in each case with 5 g of diphenoxy chloromethane. By a thin-layer chromatographic process (silica gel plates, 9:1 mixture of toluene and acetone as the eluant), practically uniform, oily crude products are obtained, viz. the following diphenoxy-methyloxime ethers: (a) Compound No. 86 (yield: 77% of theoretical), (b) Compound No. 87 (yield: 92% of theoretical), (c) Compound No. 88 (yield: 86% of theoretical), and d) the o-diphenoxy-methyl-benzophenone-oxime designated as Compound No. 89 (yield: 76% of theoretical) which is obtained by recrystallization of the crude product from ether and has a melting point of 89°-90° C.

reactant | diphenoxy chloromethane | 5 g | O(C1=CC=CC=C1)C(Cl)OC1=CC=CC=C1 | C13H11ClO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | acetone | CC(=O)C | C3H6O
reactant | o-diphenoxy-methyl-benzophenone-oxime | O(C1=CC=CC=C1)C1(C(C2=C(C=CC=C2)OC2=CC=CC=C2)=NO)C(C=CC=C1)C | C26H23NO3
solvent | ether | CCOCC | C4H10O
product | benzophenone oxime | yield: 76% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
